US05763437
To a stirred 2.63N aqueous sodium hydroxide (40 ml) was added hydroxyamine hydrochloride (8.70 g) and ethanol (40 ml), and the mixture was heated at 40° C. To the heated mixture was added dropwise a solution of N-bromomethylcarbonyl-2-cyclohexylcarbonylaniline (5.25 g) in ethanol (30 ml) at the same temperature, and stirred for 20 hours under the same condition. To the mixture was dropwise conc. HCl (7.3 ml) at the same temperature and stirred for 1 hour. After cooling to the room temperature, the mixture was concentrated in vacuo. The residue was taken up with ethyl acetate and water. The organic layer was separated and dried over sodium sulfate. The organic layer was concentrated to give a crude product. The crude product was purified by column chromatography on silica gel with a mixture of ethyl acetate and chloroform. The desired fractions were combined and concentrated in vacuo to give 5-cyclohexy-2,3-dihydro-1H-1,4-benzodiazepin-2-one-4-oxide.

reactant | sodium hydroxide | 2.63N, 40 ml | [OH-].[Na+]
reactant | hydroxyamine hydrochloride | 8.70 g | Cl.ON
reactant | N-bromomethylcarbonyl-2-cyclohexylcarbonylaniline | 5.25 g | BrCC(=O)NC1=C(C=CC=C1)C(=O)C1CCCCC1 | C15H18BrNO2
reactant | HCl | 7.3 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-cyclohexy-2,3-dihydro-1H-1,4-benzodiazepin-2-one-4-oxide | C1(CCCCC1)C1=[N+](CC(NC2=C1C=CC=C2)=O)[O-] | C15H18N2O2
